US06664256B1
Preparation of 6-(2,4-difluorophenoxy)-4-(4-fluorophenyl)-3-[4-(methylthio)phenyl]pyridazine
In a similar manner as in Example 2, 6-chloro-4-(4-fluorophenyl)-3-[4-(methylthio)phenyl]pyridazine (198 mg, 0.599 mmol) and 2,4-difluorophenol were reacted as starting materials at 150° C. for 20 hours and post-treatment was then conducted, whereby the title compound was obtained as pale yellow crystals (197 mg, 77.4%). Melting point: 140.6-143.4° C. (acetone-water).

reactant | 6-chloro-4-(4-fluorophenyl)-3-[4-(methylthio)phenyl]pyridazine | 0.599 mmol, 198 mg | ClC1=CC(=C(N=N1)C1=CC=C(C=C1)SC)C1=CC=C(C=C1)F | C17H12ClFN2S
reactant | 2,4-difluorophenol | FC1=C(C=CC(=C1)F)O | C6H4F2O
product | 6-(2,4-difluorophenoxy)-4-(4-fluorophenyl)-3-[4-(methylthio)phenyl]pyridazine | FC1=C(OC2=CC(=C(N=N2)C2=CC=C(C=C2)SC)C2=CC=C(C=C2)F)C=CC(=C1)F | C23H15F3N2OS
